US07875645B2
2-(3-Ethoxy-2,6-diethyl-benzyl)-1H-imidazole was prepared from rac-(3-ethoxy-2,6-diethyl-phenyl)-(1H-imidazol-2-yl)-methanol, triethylsilane and trifluoroacetic acid in analogy to Example 191e): light yellow crystals; MS (ISP): 259.3 ([M+H]+, 100%).

reactant | rac-(3-ethoxy-2,6-diethyl-phenyl)-(1H-imidazol-2-yl)-methanol | C(C)OC=1C(=C(C(=CC1)CC)C(O)C=1NC=CN1)CC | C16H22N2O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-Ethoxy-2,6-diethyl-benzyl)-1H-imidazole | C(C)OC=1C(=C(CC=2NC=CN2)C(=CC1)CC)CC | C16H22N2O
